US08022062B2
5-Hydroxymethyl-2-(3-methyl-butyryl)-pyridine:
Add tetrabutylammonium fluoride (5.853 mL, 5.853 mmol, 1M solution in THF) to a solution of 5-(tert-butyldimethylsilyloxymethyl)-2-(3-methyl-butyryl)-pyridine (900 mg, 2.927 mmol) in anhydrous THF (30 mL) at 0° C. and stir at this temperature for 2 h. Concentrate the solvent in vacuo and purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (3:2) to provide the desired intermediate (478 mg, 84%). MS (ES+) m/z: 194 (M+H)+.

reactant | tetrabutylammonium fluoride | 5.853 mmol, 1M, 5.853 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-(tert-butyldimethylsilyloxymethyl)-2-(3-methyl-butyryl)-pyridine | 2.927 mmol, 900 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)C(CC(C)C)=O | C17H29NO2Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Hydroxymethyl-2-(3-methyl-butyryl)-pyridine | 478 mg, 84% | OCC=1C=CC(=NC1)C(CC(C)C)=O | C11H15NO2
